* C:\Users\LENOVO\Documents\LTspice\switching_capacitor_integrator\switching_capacitor_integrator.asc
* Generated by LTspice 24.1.10 for Windows.
Cin 0 N005 1n
VIN N003 0 SINE(0 0.1 10K)
M1 N005 N001 N003 N004 Msw
M2 nin N002 N005 N006 Msw
VCLK1 N001 0 PULSE(0 5 0 1n 1n 5u 20u)
VCLK2 N002 0 PULSE(0 5 10u 1n 1n 5u 20u)
Cf VOUT nin 1n
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\LENOVO\AppData\Local\LTspice\lib\cmp\standard.mos
.model Msw NMOS (LEVEL=1 VTO=0.7 KP=200u)
.tran 0 200u 0 100n
E1 VOUT 0 0 nin 1e6
.backanno
.end
